US07777039B2
A mixture of 100 gm 7-(4-chloro butoxy)-3,4-Dihydrocarbostyril in 600 ml acetonitrile with sodium iodide (88.6 gm), K2CO3 (109 gm), Tetrabutylammonium bromide (TBAB) (0.5 gm) and 1-(2,3-dichlorophenyl)piperazine hydrochloride (110 gm) was stirred at ambient temperature. The reaction mixture was refluxed and maintained at reflux until reaction completes. The reaction mass was cooled at room temperature. DM Water (500 ml) was added to reaction mass and stirred for 30 min at ambient temperature. The mass was filtered and washed with water till pH of filtrate came to 7.0-7.5. The solid was dried in hot air oven at 60° C. to give Aripiprazole.

reactant | 7-(4-chloro butoxy)-3,4-Dihydrocarbostyril | 100 gm | ClCCCCOC1=CC=C2CCC(NC2=C1)=O | C13H16ClNO2
reactant | sodium iodide | 88.6 gm | [I-].[Na+]
reactant | K2CO3 | 109 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(2,3-dichlorophenyl)piperazine hydrochloride | 110 gm | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
catalyst | Tetrabutylammonium bromide | 0.5 gm | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | 500 ml | O | H2O
product | Aripiprazole | Yield (%): 159.6 | C=1C=C(C(=C(C1)Cl)Cl)N2CCN(CC2)CCCCOC=3C=CC4=C(C3)NC(=O)CC4 | C23H27Cl2N3O2
